US08957203B2
A solution of 7-fluoro-5-methoxyisoquinolin-1-ol (383 mg, 1.983 mmol) in POCl3 (2772 μl, 29.7 mmol) was refluxed (90° C.) for 4 h. The reaction mixture was concentrated. The residue was dissolved in DCM and the pH was adjusted to 7 with 4N NaOH. The organic phase was collected and dried over sodium sulfate, filtered, then concentrated under vacuum to give 1-chloro-7-fluoro-5-methoxyisoquinoline (399 mg, 95% yield).

reactant | 7-fluoro-5-methoxyisoquinolin-1-ol | 1.983 mmol, 383 mg | FC1=CC(=C2C=CN=C(C2=C1)O)OC | C10H8FNO2
reactant | POCl3 | 29.7 mmol, 2772 μl | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-chloro-7-fluoro-5-methoxyisoquinoline | 399 mg, 95% yield | ClC1=NC=CC2=C(C=C(C=C12)F)OC | C10H7ClFNO
